US05292760
2-Amino-N-methyl-α-(3-methyl-2-thienyl)-4-trifluoromethylbenzeneethanamine
A mixture of 3.3 g of α-(3-methyl-2-thienyl)-N-methyl-2-nitro-4-trifluoromethylbenzeneethanamine hydrochloride, 4.8 g of iron powder, 13 ml of water, 50 ml of 95% ethanol, and concentrated 350 μl hydrochloric acid was refluxed for 1.5 hrs. The mixture was filtered through Celite, the filter cake washed with water, and the organic phase of the filtrate was concentrated in vacuo. The residue was diluted with 50 ml of water and basified with 10% (aq) sodium hydroxide solution. The aqueous phase was extracted with dichloromethane, and the combined organic phase was dried over anhydrous sodium sulfate and concentrated. The residue was triturated with hexane to afford 2.1 g of product, mp 52°-54° C.

reactant | α-(3-methyl-2-thienyl)-N-methyl-2-nitro-4-trifluoromethylbenzeneethanamine hydrochloride | 3.3 g | Cl.CC1=C(SC=C1)C(CC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])NC
reactant | water | 13 ml | O | H2O
catalyst | iron | 4.8 g | [Fe] | Fe
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Amino-N-methyl-α-(3-methyl-2-thienyl)-4-trifluoromethylbenzeneethanamine | 2.1 g | NC1=C(C=CC(=C1)C(F)(F)F)CC(NC)C=1SC=CC1C | C15H17F3N2S
